US09102674B2
Step B: 2-(7-((3-Chlorobenzyl)oxy)quinolin-3-yl)-2-methylpropanoyl chloride.
To a solution of 2-(7-((3-chlorobenzyl)oxy)quinolin-3-yl)-2-methylpropanoic acid in DCM (8 mL) was added oxalyl chloride (208 μL, 2.34 mmol) followed by 3 drops of DMF. After 30 minutes, additional oxalyl chloride (2 mL, 22.5 mmol) was added. After 30 minutes stifling at ambient temperature the reaction was concentrated under reduced pressure and dried under high vacuum to afford the title compound as an oil. The crude product was used without further purification in the next step.

reactant | 2-(7-((3-chlorobenzyl)oxy)quinolin-3-yl)-2-methylpropanoic acid | ClC=1C=C(COC2=CC=C3C=C(C=NC3=C2)C(C(=O)O)(C)C)C=CC1 | C20H18ClNO3
reactant | oxalyl chloride | 2.34 mmol, 208 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 22.5 mmol, 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 2-(7-((3-Chlorobenzyl)oxy)quinolin-3-yl)-2-methylpropanoyl chloride | ClC=1C=C(COC2=CC=C3C=C(C=NC3=C2)C(C(=O)Cl)(C)C)C=CC1 | C20H17Cl2NO2
